*$
* PART NUMBER:NJM5532
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2007
.Subckt NJM5532 OUT1 -IN1 +IN1 VEE +IN2 -IN2 OUT2 VCC
X_U1 +IN1 -IN1 VCC VEE OUT1 NJM5532_SUB
X_U2 +IN2 -IN2 VCC VEE OUT2 NJM5532_SUB
.ends NJM5532
.subckt NJM5532_SUB 1 2 3 4 5
 c1 11 12 8.6603E-12
 c2 6 7 30.000E-12
 dc 5 53 dy
 de 54 5 dy
 dlp 90 91 dx
 dln 92 90 dx
 dp 4 3 dx
 egnd 99 0 poly(2) (3,0) (4,0) 0 .5 .5
 fb 7 99 poly(5) vb vc ve vlp vln 0 945.77E3 -1E3 1E3 950E3 -950E3
 ga 6 0 11 12 2.3854E-3
 gcm 0 6 10 99 21.298E-9
 iee 10 4 dc 230.95E-6
 hlim 90 0 vlim 1K
 q1 11 2 13 qx1
 q2 12 1 14 qx2
 r2 6 9 100.00E3
 rc1 3 11 419.21
 rc2 3 12 419.21
 re1 13 10 194.51
 re2 14 10 194.51
 ree 10 99 865.98E3
 ro1 8 5 50
 ro2 7 99 25
 rp 3 4 2.6358E3
 vb 9 0 dc 0
 vc 3 53 dc 2.7845
 ve 54 4 dc 2.7845
 vlim 7 8 dc 0
 vlp 91 0 dc 38
 vln 0 92 dc 38
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 NPN(Is=800.00E-18 Bf=557.42)
.model qx2 NPN(Is=815.3794E-18 Bf=592.06)
.ends
*$
* PART NUMBER:NL7WB66
* MANUFACTURER: On Semiconductor
* Rob Frohne
.Subckt NL7WB66_UnitA 1 2 4 7 8
S1 1 2 7 4 nl7sw
.model nl7sw SW(Ron=10 Roff=10Meg Vt=1.7 Vh=0)
.ends
.Subckt NL7WB66_UnitB 3 4 5 6 8
S1 5 6 3 4 nl7sw
.model nl7sw SW(Ron=10 Roff=10Meg Vt=1.7 Vh=0)
.ends
*$
* Part Number: Si5351a
* Manufacturer: Silicon Labs
* Rob Frohne
.Subckt Si5351a 1 2 3 4 5 6 7 8 9 10 params: if_freq=10MEG
v1 8 10 pulse(0 3.3 1n 1n {1/2/freq} {1/freq})
.ends
*$
.MODEL 1N914 D( IS=6.47335e-11 RS=1.14528 N=1.32752 EG=1.02272
+XTI=4 BV=110 IBV=5e-06 CJO=2.99131e-12
+VJ=1.31352 M=0.9 FC=0.5 TT=2.59685e-09
+KF=0 AF=1
*$
* Bandswitch Model
* Rob Frohne
.Subckt FST3253 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
R1 7 4 10
R2 9 12 10
.ends
*$
* SN74LVC74APWR
*****************************************************************************
* (C) Copyright 2015 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: SN74LVC74APWR
* Date: 06/25/2015
* Model Type: Transient
* Simulator: Pspice
* Simulator Version: Pspice 16.2.0.s003
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SCAS287T, 01 August 2013
* Model Version: 1.00
*
*****************************************************************************
*
* Updates:
* Version 1.0 : New model
*
************************************************************************* 
*************************************************************************
*$
.SUBCKT SN74LVC74APWR 1CLRZ 1D 1CLK 1PREZ 1Q 1QZ GND 2QZ 2Q 2PREZ 2CLK 2D 2CLRZ VCC
X_U1 1CLRZ 1D 1CLK 1PREZ 1Q 1QZ VCC GND SN74LVC74APWR_DFF
X_U2 2CLRZ 2D 2CLK 2PREZ 2Q 2QZ VCC GND SN74LVC74APWR_DFF
.ENDS
*$
.SUBCKT SN74LVC74APWR_DFF CLRZ D CLK PREZ Q QZ VCC GND 
C_D D GND 5e-12
C_CLK CLK GND 5e-12
C_PREZ PREZ GND 5e-12
C_CLRZ CLRZ GND 5e-12
R_RD   D GND 1.08e6
R_RCLK CLK GND 1.08e6
R_RPREZ PREZ GND 1.08e6 ,0 
R_RCLRZ CLRZ GND 1.08e6 ,0 
XCLK1 CLK CKZ VCC GND INV
XCLK2 CKZ CK VCC GND INV
XPRE PREZ PRE VCC GND INV
X1 OUT OUTZ VCC GND INV
X2 DOUT3 DOUT3Z VCC GND INV
XTG1 CK CKZ D DOUT1 TG
XTG2 CKZ CK DOUT1 DOUT2 TG
XNAND1 DOUT1 CLRZ OUT  NAND
XTG3 CKZ CK OUT DOUT3 TG
XOR1 PRE OUTZ DOUT2  OR
XOR2 PRE DOUT3Z QINT   OR
XTG4 CK CKZ DOUT3 DOUT4 TG
XNAND2 QINT CLRZ DOUT4  NAND
XQOUT QINT_DL QI VCC GND INV1
XQOUT1 QI Q VCC GND INV1
XQZOUT DOUT4_DL QZ1 VCC GND INV1
XQZOUT1 QZ1 QZ VCC GND INV1
R_D1 QINT EINT1 3180
D_D1 EINT1 QINT_DL DBREAK
C_D1 QINT_DL GND 1p ,0 
R_D2 QINT_DL EINT2 2730
D_D2 EINT2 QINT DBREAK
.MODEL DBREAK D N=0.001 RS=0.001 T_ABS=27
R_DQ1 DOUT4 EQINT1 3220
D_DQ1 EQINT1 DOUT4_DL DBREAK
C_DQ1 DOUT4_DL GND 1p ,0 
R_DQ2 DOUT4_DL EQINT2 2730
D_DQ2 EQINT2 DOUT4 DBREAK

.ENDS
*$
.SUBCKT TG C CZ IN Y 
XT1 C GND IN Y SHI1
XT2 CZ GND IN Y SLO1
.ENDS
*$
.SUBCKT OR A B Y PARAMS: VDD=2.7 VSS=0 VTHRESH= 0.7
E_ABMGATE Y_INT 0 VALUE = {IF(V(A) > {VTHRESH} | V(B)> {VTHRESH},{VDD},
+ IF(V(A) < {VTHRESH} | V(B)< {VTHRESH},{VSS},
+ IF(V(A) > {VTHRESH} & V(B)> {VTHRESH},{VDD}, {VSS})))}
RINT Y_INT Y 1
CINT Y 0 0.087NF
.ENDS
*$
.SUBCKT TGATE C CZ IN Y 
XT1 C GND IN Y SHI1
XT2 CZ GND IN Y SLO1
.ENDS
*$
.SUBCKT INV A Y VCC GND PARAMS: VDD=2.7 VSS=0 VTHRESH= 0.7
E_ABMGATE YINT 0 VALUE = {IF(V(A) < {VTHRESH} ,{VDD},{VSS})}
RINT YINT Y 1
CINT Y 0 0.087NF
.ENDS
*$
.SUBCKT INV1 A Y VCC GND PARAMS: VDD=2.7 VSS=0 VTHRESH= 0.7
X1 A GND VCC Y SHI1
X2 A GND GND Y SLO1
.ENDS
*$
$
.SUBCKT NAND A B Y PARAMS:VDD=2.7 VSS=0 VTHRESH= 0.7
E_ABMGATE YINT 0 VALUE = {IF(V(A) > {VTHRESH} & V(B)> {VTHRESH},{VSS},
+ IF(V(A) < {VTHRESH} | V(B)< {VTHRESH},{VDD}, 
+ IF(V(A) < {VTHRESH} & V(B)< {VTHRESH},{VDD}, {VSS})))}
RINT YINT Y 1
CINT Y 0 0.087NF
.ENDS
*$
.subckt SHI1 1 2 3 4  
S_SHI1         3 4 1 2 _SHI1
*RS_SHI1         1 2 1G
.MODEL         _SHI1 VSWITCH Roff=4.25e6 Ron=33.33 Voff=1.7V Von=0.7V
.ends SHI1
*$
.subckt SLO1 1 2 3 4  
S_SLO1         3 4 1 2 _SLO1
*RS_SLO1         1 2 1G
.MODEL         _SLO1 VSWITCH Roff=4.25e6 Ron=33.33 Voff=0.7V Von=1.7V
.ends SLO1
*$
.subckt SLO2 1 2 3 4  
S_SLO2         3 4 1 2 _SLO2
RS_SLO2         1 2 1G
.MODEL         _SLO2 VSWITCH Roff=4.25e6 Ron=33.33 Voff=0.7V Von=1.7V
.ends SLO2
*$
.subckt SHI2 1 2 3 4  
S_SHI2         3 4 1 2 _SHI2
RS_SHI2         1 2 1G
.MODEL         _SHI2 VSWITCH Roff=4.25e6 Ron=33.33 Voff=1.7V Von=0.7V
.ends SHI2
*$
*SRC=74HC74
*SYM=74HC74
.SUBCKT 74HC74 1 2 3 4 5 6 7 14
*1=CLR 2=D 3=CLK 4=SET 5=Q 6=Q\ 7=GND 14=VCC
* 20=Momentary Clock 21=Q before RC 22=Q after RC 23=VCC that we can look
R1 14 23 1
R2 14 20 1
R3 21 22 1
C1 3 20 0.0000001 IC=0
C2 22 7 0.0000001 IC=0
B1 21 7 V = IF( (((V(1,7))<((V(23,7))/2)) + (((V(20,7))<((V(23,7))/2)) * ((V(2,7))<((V(23,7))/2)))), 0, (IF((((V(4,7))<((V(23,7))/2)) + (((V(20,7))<((V(23,7))/2)) * ((V(2,7))>((V(23,7))/2)))), V(23,7), V(5,7))) )
B2 5 7 V = IF((V(22,7)<(V(23,7))/2),0,(V(23,7)))
B3 6 7 V = IF((V(5,7)>(V(23,7))/2),0,(V(23,7)))
.ENDS
*$
